US09163019B2
b2.1) 2-(4-Methoxybenzylamino)-acetonitrile (7)
A mixture of TEA (55.9 ml, 401 mmol), (4-methoxyphenyl)methanamine (50 g, 364 mmol) and 2-bromoacetonitrile (43.7 g, 364 mmol) in THF (500 ml) was stirred at about 10° C. for about 12 h in a 500 ml round-bottomed flask. The reaction was filtered through a pad of silica gel. The crude material was deposited onto silica gel, loaded onto a silica gel column and eluted with Hex/EtOAc (1:1) to afford the title compound (49 g, 278 mmol, 76% yield). 1H-NMR (CDCl3, 400 MHz): δ=3.55 (s, 2H), 3.81 (s, 3H), 3.87 (s, 2H), 6.88 (d, 2H, J=8.4 Hz), 7.26 (d, 2H, J=8.0 Hz)

reactant | (4-methoxyphenyl)methanamine | 364 mmol, 50 g | COC1=CC=C(C=C1)CN | C8H11NO
reactant | 2-bromoacetonitrile | 364 mmol, 43.7 g | BrCC#N | C2H2BrN
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 2-(4-Methoxybenzylamino)-acetonitrile | 278 mmol, 49 g, 76% yield | COC1=CC=C(CNCC#N)C=C1 | C10H12N2O
